US05252590
To a solution of 0.5 g (2.5 m mol) of 5-methyl-4-pentafluoroethylimidazole in 5 ml of N,N-dimethyl formamide is added slowly 100 mg (2.5 m mol) of an oily sodium hydride (60%) while cooling with ice, followed by stirring at the same temperature for 20 minutes. After the reaction is completed, to the reaction mixture is added dropwise 0.50 g (2.5 m mol) of 2,3-dichloro-5-difluoromethoxypyridine, followed by stirring at room temperature for 9 hours. After the reaction is completed, the reaction mixture is poured into water, and extracted with ethyl acetate. Further, then the residue is washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained product is subjected to silica gel chromatography to give 1-(3-chloro-5-difluoromethoxypyridin-2-yl)-5-methyl-4-pentafluoroethylimidazole.

reactant | 5-methyl-4-pentafluoroethylimidazole | 0.5 g | CC1=C(N=CN1)C(C(F)(F)F)(F)F | C6H5F5N2
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | 2,3-dichloro-5-difluoromethoxypyridine | 0.50 g | ClC1=NC=C(C=C1Cl)OC(F)F | C6H3Cl2F2NO
reactant | water | O | H2O
solvent | N,N-dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(3-chloro-5-difluoromethoxypyridin-2-yl)-5-methyl-4-pentafluoroethylimidazole | ClC=1C(=NC=C(C1)OC(F)F)N1C=NC(=C1C)C(C(F)(F)F)(F)F | C12H7ClF7N3O
